US09126998B2
N-(2-Amino-2-methylpropyl)-8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxamide hydrochloride
200 mg (0.50 mmol) of N-(2-amino-2-methylpropyl)-8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxamide Example 74 were initially charged in 4 ml of diethyl ether, 0.26 ml (0.52 mmol) of 2 N hydrochloric acid in diethyl ether was added and the reaction mixture was stirred at RT for 30 min. The mixture was then concentrated and the residue was lyophilized. This gave 217 mg (98.5% of theory, purity 99%) of the target compound.

reactant | N-(2-amino-2-methylpropyl)-8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxamide | 0.50 mmol, 200 mg | NC(CNC(=O)C1=C(N=C2N1C=C(C=C2OCC2=C(C=CC=C2F)F)C)C)(C)C | C21H24F2N4O2
reactant | hydrochloric acid | 0.52 mmol, 2 N, 0.26 ml | Cl | ClH
solvent | diethyl ether | 4 ml | C(C)OCC | C4H10O
product | N-(2-Amino-2-methylpropyl)-8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxamide hydrochloride | Cl.NC(CNC(=O)C1=C(N=C2N1C=C(C=C2OCC2=C(C=CC=C2F)F)C)C)(C)C | InChI=1S/C21H24F2N4O2.ClH/c1-12-8-17(29-10-14-15(22)6-5-7-16(14)23)19-26-13(2)18(27(19)9-12)20(28)25-11-21(3,4)24;/h5-9H,10-11,24H2,1-4H3,(H,25,28);1H
